US06177425B1
4-(Piperidin-1-yl)-but-2-enoic Acid Anhydride Dihydrochloride
Oxalyl chloride (4.2 ml) was added to a stirred solution of 4-(piperidin-1-yl)-but-2-enoic acid hydrochloride (10 g) in dichloromethane (200 ml). Dimethylformamide (2 drops) was then added. The resultant suspension was stirred for 4 h and then concentrated to ˜25 ml. The slurry obtained was stirred a further 1 h and then filtered. The filter pad was washed with dichloromethan (50 ml) and dired in vacuo to give the title compound as a white solid (4.95 g). M.p. 120-124° C. (decomposition).

reactant | Oxalyl chloride | 4.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(piperidin-1-yl)-but-2-enoic acid hydrochloride | 10 g | Cl.N1(CCCCC1)CC=CC(=O)O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-(Piperidin-1-yl)-but-2-enoic Acid Anhydride Dihydrochloride | 4.95 g | Cl.Cl.N1(CCCCC1)CC=CC(=O)OC(C=CCN1CCCCC1)=O | InChI=1S/C18H28N2O3.2ClH/c21-17(9-7-15-19-11-3-1-4-12-19)23-18(22)10-8-16-20-13-5-2-6-14-20;;/h7-10H,1-6,11-16H2;2*1H
